US06723722B1
1-(tert-Butyl) 3-methyl 5-oxo-1,3-piperazinedicarboxylate (4.5 g) was dissolved in DMF (90 ml) and combined with sodium hydride (0.84 g, in oil) with cooling on ice. After stirring at 50° C. for 1 hour, O-diphenylphosphinyl hydroxylamine (4.5 g) was added and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was combined with aqueous sodium bicarbonate and extracted with dichloromethane. The extract was dried and concentrated to obtain 1-(tert-butyl) 3-methyl 4-amino-5-oxo-1,3-piperazinedicarboxylate as a yellow oil. A solution of this material and 1-(4-pyridinyl)-4-piperidone (3.1 g) in ethanol (90 ml) was dehydrated using a Soxlet extractor packed with molecular sieves 4A while refluxing for 15 hours. The reaction mixture was concentrated to obtain a residue, which was dissolved in methanol (90 ml) and combined with acetic acid (2.1 ml) with cooling on ice,followed by sodium cycanoborohydride (2.2 g) and then stirred at room temperature for 2 hours. The reaction mixture was concentrated, and the residue was dissolved in ethyl acetate, washed with aqueous sodium bicarbonate, dried, concentrated and purified by a column chromatography on a basic silica gel (ethyl acetate:methanol=20:1) to obtain the title compound (3.8 g) as a pale yellow non-crystalline powder.

reactant | 1-(tert-Butyl) 3-methyl 5-oxo-1,3-piperazinedicarboxylate | 4.5 g | O=C1NC(CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H18N2O5
reactant | sodium hydride | 0.84 g | [H-].[Na+]
reactant | O-diphenylphosphinyl hydroxylamine | 4.5 g | C1(=CC=CC=C1)P(=O)(ON)C1=CC=CC=C1 | C12H12NO2P
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 1-(tert-butyl) 3-methyl 4-amino-5-oxo-1,3-piperazinedicarboxylate | NN1C(CN(CC1=O)C(=O)OC(C)(C)C)C(=O)OC | C11H19N3O5
